US07550629B2
A. 2-(3,5-Difluoro-benzenesulfonylamino)-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester
To a solution of 3,5-difluoro-benzenesulfonyl chloride (252 mg, 1.19 mmol) and 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester (300 mg, 1.19 mmol) in CH2Cl2 (7 mL) was added anhydrous pyridine (144 μL, 1.77 mmol, 1.50 equiv.) and the vial capped and shaken for 72 h. The reaction solution was transferred to a separatory funnel with CH2Cl2 (100 mL), washed with 1M citric acid solution (100 mL), water (50 mL×4), brine (100 mL), dried (MgSO4), filtered and evaporated to give a white solid (300 mg, 59%). Mass Spectrum (−ESI): 427.8 [M−H]−

reactant | 3,5-difluoro-benzenesulfonyl chloride | 1.19 mmol, 252 mg | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 1.19 mmol, 300 mg | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)N)=O | C7H9F6NO2
reactant | pyridine | 1.77 mmol, 144 μL, 1.50 equiv. | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-Difluoro-benzenesulfonylamino)-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 300 mg, 59% | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC(=CC(=C1)F)F)=O | C13H11F8NO4S
